US03936464
Preparation of 5-acetyl-7-[2-(3,6-dihydro-4-phenyl-1 (2H)-pyridyl)ethyl]-6,7-dihydro-5H-1,3-dioxolo[4,5-f]indole
In the manner described in Example 1, treatment of 5-acetyl-7-(2-bromoethyl)-6,7-dihydro-5H-1,3-dioxolo[4,5-f]-indole with 1,2,3,6-tetrahydro-4-phenylpyridine gives white crystals, m.p. 90°-91°C., after recrystallization from dilute acetone.

reactant | 5-acetyl-7-(2-bromoethyl)-6,7-dihydro-5H-1,3-dioxolo[4,5-f]-indole | C(C)(=O)N1CC(C=2C=C3C(=CC12)OCO3)CCBr | C13H14BrNO3
reactant | 1,2,3,6-tetrahydro-4-phenylpyridine | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
product | 5-acetyl-7-[2-(3,6-dihydro-4-phenyl-1 (2H)-pyridyl)ethyl]-6,7-dihydro-5H-1,3-dioxolo[4,5-f]indole | C(C)(=O)N1CC(C=2C=C3C(=CC12)OCO3)CCN3CCC(=CC3)C3=CC=CC=C3 | C24H26N2O3
